US03974153
Trifluoroacetic acid (20 ml) was added slowly to a mixture of anisole (5 ml) and diphenylmethyl (6R,7R)-3-carbamoyloxymethyl-7-[2-(fur-2-yl)-2-methoxyiminoacetamido]ceph-3-em-4-carboxylate (syn isomer) (4.7 g, 8 mmole) which had been cooled in an ice-bath. The flask was shaken occasionally during the next 10 minutes to ensure complete solution of the solid. It was then removed from the icebath and excess trifluoroacetic acid was removed on a rotary evaporator. Trituration of the residue with ethyl acetate (5 ml) gave (6R,7R)-3-carbamoyloxymethyl-7-[2-(fur-2-yl)-2-methoxyiminoacetamido]ceph-3-em-4-carboxylic acid (syn isomer) (3.3 g, 94%) as a solid which was filtered off and washed with diethyl ether.

reactant | anisole | 5 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | diphenylmethyl (6R,7R)-3-carbamoyloxymethyl-7-[2-(fur-2-yl)-2-methoxyiminoacetamido]ceph-3-em-4-carboxylate | 8 mmole, 4.7 g | C(N)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(C(=NOC)C=2OC=CC2)=O)=O | C29H26N4O8S
solvent | Trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (6R,7R)-3-carbamoyloxymethyl-7-[2-(fur-2-yl)-2-methoxyiminoacetamido]ceph-3-em-4-carboxylic acid | 3.3 g, 94% | C(N)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(C(=NOC)C=2OC=CC2)=O)=O | C16H16N4O8S
